* Library of Advanced Linear Devices, Inc. definitions
*
* Copyright 2004 Advanced Linear Devices, Inc.
*   Neither this library nor any part may be copied without the express
*   written consent of Advanced Linear Devices, Inc.
* PSPICE version
* $Revision:  1.3  $
* $Date:    6 Feb 2004 00:00:00  $
* -----------------------------------------------------------------------------
*
* This library of models and macromodels is being supplied to users as an aid to
* circuit design. While it reflects reasonably close similarity to the actual device
* in terms of performance, it is not suggested as a replacement for bread-
* boarding. Simulation should be used as a forerunner or a supplement to
* traditional lab testing.
*
* Users should very carefully note the following factors regarding these 
* models:
*
*     Model performance in general will reflect typical baseline specs for a
*     given device, and certain aspects of performance may not be modeled
*     fully.
*
*     While reasonable care has been taken in their preparation, we cannot be
*     responsible for correct application on any and all computer systems.
*
*     In all cases, the current data sheet information for a given real device
*     is your final design guideline, and is the only actual performance
*     guarantee.  For further technical information, refer to individual device
*     data sheets.
*
*     Model users are hereby notified that these models are supplied "as is",
*     with no direct or implied responsibility on the part of Advanced Linear
*     Devices for their operation within a customer circuit or system. Further,
*     ALD reserves the right to change these models without prior notice. 
*
*     The macromodels listed in this library represent typical performance 
*     characteristics, without offset (Vos) adjustment, or other 
*     parameters that would allow for Monte Carlo simulation of these circuits. 
*     
*     Advanced Linear Devices provides a separate library of ASIC standard cell
*     functions such as operational amplifiers, timers, and comparators as well
*     as resistors, capacitors, and individual transistors and diodes for func-
*     tion specific integrated circuit design. This ASIC verification library 
*     contains a comprehensive set of parametric values to be used in Monte 
*     Carlo simulation of user designed integrated circuits. Contact your 
*     Advanced Linear Devices representative for more information. 
* -----------------------------------------------------------------------------
*    
* Your feedback and suggestions on these (and future) models will be
* appreciated.
*
*
* Advanced Linear Devices, Inc.
* Customer Support Group
* 415 Tasman Drive
* Sunnyvale, California. 94089
* Tel: (408) 747-1155 
* Fax: (408) 747-1286
* techsupport@aldinc.com
* -----------------------------------------------------------------------------
*
* The following is the ALD global parameter definition statement. Preset are 
* nominal values of each lot variation parameter. Use this statement to 
* scale gloal input parameters of your circuit file to test for effects of lot 
* (global) processing parameter changes. 
*
.param: 
* resistors:  implanted and polysilicon (a multiplier)
+             ires=1.0      pres=1.0   M_dec=1
* capacitors: poly/gate   interpoly  (a multiplier)
+             Cox=1.0     Pox=1.0 
* transistors: (input a delta shift of threshold) 
+             Vtn=0.0     Vtp=0.0    Lv=0.0u Wv=0.0u M=1
* amplifiers: 
+             vos=0.0 
* zeners: 
+             bvz=5.3 
*
* ADVANCED LINEAR DEVICES LIBRARIES 
*
.model dps D (Is=2.61e-7
+             Isr=1.0e-5
+             Bv=34 Ibv=1e+4
+             Rs=2.74e-7 trs1=3e-3
+             Cjo=1.3e-4 )


*  Four terminal integrated N-channel ( 2mv. vos dist)
*
*--------------------------------------------------------
*  Package model devices -four terminal integrated N-channel @ vbs=0, grade: a, vos=2.0mv worse case 
*  mismatch no MC.
*
*--------------------------------------------------------
*  Four terminal integrated N-channel (.040 vos dist).
*
* MOSFET model for NGSpice
.model ncg nmos (Level=2
+                 gamma=1.09
+                 vto={.750 + vtn}    ; Threshold voltage dependent on vtn
+                 Uo=650
+                 Ucrit=0.7e4
+                 Uexp=.1
+                 Vmax=1.6e5
+                 phi=.70
+                 tpg=+1
+                 nsub={1e16 * ires}  ; N-substrate concentration dependent on ires
+                 neff={10 * ires}    ; Effective channel doping
+                 nss=.7e11
+                 nfs=1.17e11
+                 tox={.055u * cox}   ; Oxide thickness dependent on cox
+                 Cgso={.94n * cox}
+                 Cgdo={.59n * cox}
+                 Cgbo={.138n * pox}
*                 Xqc=.42
+                 cj=.39m
+                 cjsw=264p
+                 xj=2.0u
+                 ld=1.6u
+                 W=1.05u
+                 pb=.9
+                 js=20e-6              ; Corrected the current density unit to A
+                 mj=.5
+                 mjsw=0.18
+                 kf=.75e-28
+                 rsh=10)

*--------------------------------------------------------
*
*
* trans.lib
*----------------------------------
* N channel TRANSISTORS
*----------------------------------
*
*          listing of single integrated 1101 transistors.
*          Five terminal N-channel transistors, no gate protection.
*   1101a  2mv ultra precision matched transistor.
*   1101b  5mv precision matched transistor.
*   1101   11mv matched transistor.
*   1101g  50mv general purpose transistor.
*   1106   11mv matched transistor
*
*   1101's are five terminal single integrated N-channel transistor, with no gp.
*
*            d g s b v+
.subckt 1106 1 2 3 4 5 params: vtn=0.0
m1 1 2 3 4 ncg l=7.8e-6 w=0.138e-3 as=0.603e-8 ps=0.478e-3 ad=0.161e-8
+                                  nrd=.3 nrs=1
dps 4 5 dps 0.8e-8
.ends
*
*
*
*-------------------------

